US08008279B2
Tri-potassium orthophosphate (1.92 g, 9.04 mmol), tert-butyl 6-iodo-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate (1.80 g, 4.52 mmol) and copper(I) iodide (0.430 g, 2.26 mmol) were suspended in 2-(piperidin-1-yl)ethanol (15 ml, large excess) and sealed into a microwave tube after bubbling argon through the solution for 5 minutes. The reaction was heated to 150° C. for 1.5 hours in the microwave reactor and cooled to RT. This reaction was repeat three times and the combined crude reaction mixture worked as follows. The mixture was diluted with DCM (50 mL) and washed with NaOH (3×30 mL), dried over sodium sulfate and the solvent removed under reduced pressure. The crude product was purified by preparative HPLC (0.1% HCOOH, CH3CN, H20). Fractions containing the desired compound were evaporated to dryness to afford tert-butyl 6-(2-(piperidin-1-yl)ethoxy)-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate (1.33 g, 25% yield) as a yellow gum.

reactant | Tri-potassium orthophosphate | 9.04 mmol, 1.92 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tert-butyl 6-iodo-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate | 4.52 mmol, 1.80 g | IC1=CC=CC=2C3=C(NC12)CCN(C3)C(=O)OC(C)(C)C | C16H19IN2O2
reactant | 2-(piperidin-1-yl)ethanol | 15 ml | N1(CCCCC1)CCO | C7H15NO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | copper(I) iodide | 2.26 mmol, 0.430 g | [Cu]I
product | tert-butyl 6-(2-(piperidin-1-yl)ethoxy)-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate | 1.33 g, 25% yield | N1(CCCCC1)CCOC1=CC=CC=2C3=C(NC12)CCN(C3)C(=O)OC(C)(C)C | C23H33N3O3
